US04872901
Ethyl 5-aminosulfonyl-1,3-dimethylpyrazole-4-carboxylate
4.6 g of ethyl 5-chlorosulfonyl-1,3-dimethylpyrazole-4-carboxylate is dissolved in 8 ml of THF, and the solution is added dropwise to 25 ml of ammonia water at 5° C. to 7° C. The reaction mixture is stirred at the same temperature for 1 hour, and then concentrated to dryness under reduced pressure. To the residue is added ethyl acetate, followed by filtration to remove impurities, and the filtrate is concentrated under reduced pressure. The residue is diluted with n-hexane, and then cooled with ice to give crystals. The crystals are filtered and dried to yield 3.6 g of the title compound. mp. 112° to 113° C.

reactant | ethyl 5-chlorosulfonyl-1,3-dimethylpyrazole-4-carboxylate | 4.6 g | ClS(=O)(=O)C1=C(C(=NN1C)C)C(=O)OCC | C8H11ClN2O4S
reactant | ammonia water | 25 ml | O.N
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | Ethyl 5-aminosulfonyl-1,3-dimethylpyrazole-4-carboxylate | 3.6 g | NS(=O)(=O)C1=C(C(=NN1C)C)C(=O)OCC | C8H13N3O4S
